US07271261B2
2-(4-Phenoxy-phenyl]-1H-benzoimidazole-5-sulfonic acid amide.
This compound was prepared according to the methods described in Example 22 and Scheme 3, substituting 4-phenoxybenzaldehyde for 4-(4-fluoro-phenoxy)-benzaldehyde, and 3,4-diaminobenzene sulfonamide for 3,4-diaminobenzoic acid amide.

reactant | 4-(4-fluoro-phenoxy)-benzaldehyde | FC1=CC=C(OC2=CC=C(C=O)C=C2)C=C1 | C13H9FO2
reactant | 3,4-diaminobenzene sulfonamide | NC=1C=C(C=CC1N)S(=O)(=O)N | C6H9N3O2S
reactant | 3,4-diaminobenzoic acid amide | NC=1C=C(C(=O)N)C=CC1N | C7H9N3O
product | 2-(4-Phenoxy-phenyl]-1H-benzoimidazole-5-sulfonic acid amide | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC2=C(N1)C=CC(=C2)S(=O)(=O)N | C19H15N3O3S
